US07199154B2
Step 4: (2Z)-3-[4-(methylsulfonyl)phenyl]-4-[({[5-(nitrooxy)pentyl]oxy}carbonyl)oxy]-2-phenylbut-2-enoic acid
A solution of (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl 5-(nitrooxy)pentyl carbonate (1 eq, 0.2M) in dichloromethane was treated with Dess-Martin reagent (1.3 eq) for 1 h at rt. The reaction was quenched by 10 eq of water and stirred at rt for 1 h, filtered on a silica gel pad eluted with 60% EtOAc/hexanes and evaporated. The residue was dissolved in a 3:1 solvent mixture of tBuOH/CH2Cl2, and treated with 1 M H3PO4 (4 eq) and 1 M NaClO2 (2 eq) in the presence of an excess of 2-methyl-2-butene. The resulting mixture was stirred at rt for 30 min, diluted with EtOAc and the organic layer was separated, washed with brine, dried (Na2SO4), and evaporated to afford the crude acid used as such for next step.

reactant | (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-enyl 5-(nitrooxy)pentyl carbonate | 0.2M, 1 eq | C(OC\C(=C(/CO)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)(OCCCCCO[N+](=O)[O-])=O | C23H27NO9S
reactant | Dess-Martin reagent | 1.3 eq | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | water | 10 eq | O | H2O
reactant | H3PO4 | 1 M, 4 eq | OP(=O)(O)O | H3O4P
reactant | NaClO2 | 1 M, 2 eq | [O-]Cl=O.[Na+]
reactant | 2-methyl-2-butene | CC(C)=CC | C5H10
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2Z)-3-[4-(methylsulfonyl)phenyl]-4-[({[5-(nitrooxy)pentyl]oxy}carbonyl)oxy]-2-phenylbut-2-enoic acid | CS(=O)(=O)C1=CC=C(C=C1)/C(=C(/C(=O)O)\C1=CC=CC=C1)/COC(=O)OCCCCCO[N+](=O)[O-] | C23H25NO10S
